US08003649B2
DIAD (0.631 mL, 3.20 mmol) in DCM (5 ml) was added dropwise to a mixture of (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (500 mg, 2.67 mmol), pyridin-3-ol (305 mg, 3.20 mmol) and triphenylphosphine (840 mg, 3.20 mmol) in DCM (20 ml), cooled in an ice bath. The mixture was allowed to warm to room temperature, stirred for 1 hour and then concentrated. The residue was dissolved in dioxan (15 mL) and 4M HCl in dioxan (15 mL) was added. The mixture was stirred for 1 hour and concentrated. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M ammonia in methanol and pure fractions were evaporated to dryness to afford (3R)-3-(pyridin-3-yloxy)pyrrolidine (405 mg, 92%) as a colourless oil.

reactant | DIAD | 3.20 mmol, 0.631 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 2.67 mmol, 500 mg | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | pyridin-3-ol | 3.20 mmol, 305 mg | N1=CC(=CC=C1)O | C5H5NO
reactant | triphenylphosphine | 3.20 mmol, 840 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-(pyridin-3-yloxy)pyrrolidine | 405 mg, 92% | N1=CC(=CC=C1)O[C@H]1CNCC1 | C9H12N2O
